US06166064
3-Methylsulfonyl-benzenesulfonamide
To a solution of 3-methylsulfanylbenzenesulfonamide (500 mg, 2.5 mmol) in acetone was added an aqueous solution of OXONE (3.2 grams, 5 mmol). The mixture was stirred at room temperature for 12 hours. The reaction was evaporated to dryness in vacuo. The residue was triturated with acetone and filtered. The filtrated was evaporated to give 460 mg of the titled compound.

reactant | 3-methylsulfanylbenzenesulfonamide | 2.5 mmol, 500 mg | CSC=1C=C(C=CC1)S(=O)(=O)N | C7H9NO2S2
reactant | OXONE | 5 mmol, 3.2 grams | OOS(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | 3-Methylsulfonyl-benzenesulfonamide | 460 mg | CS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)N | C7H9NO4S2
